US05086049
Ethyl 6-fluoro-1-methyl-7-[4-(5-methyl-2-oxo-1,3-dioxolen-4yl)methyl-1-piperazinyl]-4oxo-4H-[1,3-]thiazeto[3,2-a]quinoline-3-carboxylate.
Ethyl 6-fluoro-1-methyl-4-oxo-7-(1-piperazinyl)-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate (3.88 g) and 1.23 g of potassium bicarbonate were suspended in 20 ml of N,N-dimethylformamide, 2.38 g of 4-bromomethyl-5-methyl-1,3-dioxolen-2-one was dropped thereinto with ice cooling, and the mixture was stirred for 3 hours. After the reaction, the solvent was evaporated in vacuo therefrom at 50° C. and the residue was extracted with chloroform containing a few amount of methanol. The extract was washed with water, dried, the solvent was evaporated therefrom and the residue was purified by a column chromatography (chloroform-methanol/silica gel) to give 3.32 g of desired product. M.p. 241°-243° C. (decompn.)

reactant | Ethyl 6-fluoro-1-methyl-4-oxo-7-(1-piperazinyl)-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 3.88 g | FC=1C=C2C(C(=C3N(C2=CC1N1CCNCC1)C(S3)C)C(=O)OCC)=O | C18H20FN3O3S
reactant | potassium bicarbonate | 1.23 g | C([O-])(O)=O.[K+]
reactant | 4-bromomethyl-5-methyl-1,3-dioxolen-2-one | 2.38 g | BrCC=1OC(OC1C)=O | C5H5BrO3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-fluoro-1-methyl-7-[4-(5-methyl-2-oxo-1,3-dioxolen-4yl)methyl-1-piperazinyl]-4oxo-4H-[1,3-]thiazeto[3,2-a]quinoline-3-carboxylate | 3.32 g | FC=1C=C2C(C(=C3N(C2=CC1N1CCN(CC1)CC=1OC(OC1C)=O)C(S3)C)C(=O)OCC)=O | C23H24FN3O6S
